US07517910B2
(3-tert-butyl-1-{4-[(methoxymethoxy)methyl]benzyl}-1H-pyrazol-5-yl)methanol
To a solution of ethyl 3-tert-butyl-1-{4-[(methoxymethoxy)methyl]benzyl}-1H-pyrazole-5-carboxylate (1.95 g, 5.41 mmol) in tetrahydrofuran (20 mL) was added lithium aluminum hydride (0.26 g, 5.5 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. Ethanol (10 mL) and saturated aqueous ammonium chloride solution (1.0 mL) were added to the reaction mixture. The precipitated insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue subjected to silica gel chromatography (ethyl acetate:hexane=1:1) to give the title compound (1.45 g, yield 84%) as a colorless oil.

reactant | ethyl 3-tert-butyl-1-{4-[(methoxymethoxy)methyl]benzyl}-1H-pyrazole-5-carboxylate | 5.41 mmol, 1.95 g | C(C)(C)(C)C1=NN(C(=C1)C(=O)OCC)CC1=CC=C(C=C1)COCOC | C20H28N2O4
reactant | lithium aluminum hydride | 5.5 mmol, 0.26 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethanol | 10 mL | C(C)O | C2H6O
reactant | ammonium chloride | 1.0 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (3-tert-butyl-1-{4-[(methoxymethoxy)methyl]benzyl}-1H-pyrazol-5-yl)methanol | 1.45 g, yield 84% | C(C)(C)(C)C1=NN(C(=C1)CO)CC1=CC=C(C=C1)COCOC | C18H26N2O3
